US05525723
a) N-Phthalimido-3-(3-thienyl)-L-alanine
3-(3-Thienyl)-L-alanine (2.45 g., 14.3 mmol.) was suspended in water/p-dioxane (22 ml/11 ml.) at room temperature under argon. Sodium carbonate (1.52 g.) was added and the mixture was stirred until homogeneous. N-Carbethoxyphthalimide (3.14 g.) was added, and the resulting mixture was stirred for 3.0 hours and then cooled to 0° C. The pH was adjusted to 1.5 with 6N hydrochloric acid and the mixture was extracted with ethyl acetate. The organic layer was washed successively with 10% potassium bisulfate and brine, dried (sodium sulfate), filtered, and concentrated. The crude product was flash chromatographed (Merck silica gel) eluting with 1:1 ethyl acetate/hexane/1% acetic acid. The fractions containing clean desired product were combined, concentrated, azeotroped with ethyl acetate, and washed with water to remove the acetic acid. The organic layer was dried (sodium sulfate), filtered, and concentrated to give 3.22 g. of title compound as a white crystalline product; m.p. 166°-168° C.; [α]D =-146.8° (c=0.46, methylene chloride). TLC (1% acetic acid in 1:1 ethyl acetate/hexane) Rf =0.31.

reactant | 3-(3-Thienyl)-L-alanine | 14.3 mmol, 2.45 g | S1C=C(C=C1)C[C@H](N)C(=O)O | C7H9NO2S
reactant | Sodium carbonate | 1.52 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-Carbethoxyphthalimide | 3.14 g | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | water p-dioxane | 22 ml | O.O1CCOCC1
product | N-Phthalimido-3-(3-thienyl)-L-alanine | C1(C=2C(C(N1N[C@@H](CC1=CSC=C1)C(=O)O)=O)=CC=CC2)=O | C15H12N2O4S
